US05679864
Synthesis of Didemethoxycurcumin
A 1 L reactor was charged with 171 g of 4-hydroxybenzaldehyde, 46.6 g boron oxide, 300 g N,N-dimethylacetamide, 70.2 g 2,4-pentanedione and 145.5 g triethyl borate. The mixture was stirred and heated to a temperature of 80° C. under nitrogen. n-Butylamine totaling 21.3 g was then fed dropwise into the reaction mixture over a period of 60 minutes. The temperature of the reaction mixture varied between 80° and 85° C. during this period.

reactant | 4-hydroxybenzaldehyde | 171 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | boron oxide | 46.6 g | [B]=O | BO
reactant | 2,4-pentanedione | 70.2 g | CC(CC(C)=O)=O | C5H8O2
reactant | triethyl borate | 145.5 g | B(OCC)(OCC)OCC | C6H15BO3
reactant | n-Butylamine | 21.3 g | C(CCC)N | C4H11N
reactant | N,N-dimethylacetamide | 300 g | CN(C(C)=O)C | C4H9NO
product | Didemethoxycurcumin | C1=CC(=CC=C1/C=C/C(=O)CC(=O)/C=C/C2=CC=C(C=C2)O)O | C19H16O4
